US07667064B2
2-Bromo-4,6-dimethylaniline
21.2 ml (65.6 g, 0.410 mol) of bromine were added dropwise, while vigorously stirring, over ca. 20 minutes to a solution of 50.0 g (0.413 mol) of 2,4-dimethylaniline in 1500 cm3 of glacial acetic acid. This mixture was stirred for 2 hours at 40° C. The precipitate that formed was filtered off, washed with 50 ml of acetic acid, and dried in air. Then, this white solid was added to a solution of 100 g of potassium hydroxide in 400 ml of water. This mixture was stirred for 30 minutes. The crude product was extracted with 3×100 ml of dichloromethane. The combined extract was dried over Na2SO4 and evaporated to dryness. Fractional distillation gave a yellowish liquid, bp 83-85° C./1 mm Hg. Yield 46.9 g (57%).

reactant | bromine | 0.410 mol, 21.2 ml, 65.6 g | BrBr | Br2
reactant | 2,4-dimethylaniline | 0.413 mol, 50.0 g | CC1=C(N)C=CC(=C1)C | C8H11N
solvent | acetic acid | 1500 cm3 | C(C)(=O)O | C2H4O2
product | 2-Bromo-4,6-dimethylaniline | BrC1=C(N)C(=CC(=C1)C)C | C8H10BrN
